US07994185B2
N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
A suspension of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (200 mg, 0.352 mmol) and ammonia in MeOH 7M (7 ml, 49.0 mmol) was heated in a sealed tube at 80° C. for 48 h. The reaction mixture was evaporated onto silica gel and chromatographed, 0-50% 1:9 acetone:CHCl3 in EtOAc. The resulting solid was triturated in MeOH to give the title compound (54 mg, 27% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.70 (br. s., 1H), 7.78 (d, J=5.3 Hz, 1H), 7.40-7.59 (m, 3H), 7.37 (td, J=7.4, 2.0 Hz, 1H), 7.14-7.31 (m, 2H), 6.52 (s, 2H), 5.58 (d, J=5.2 Hz, 1H), 3.66 (t, J=4.6 Hz, 4H), 3.40 (t, J=4.6 Hz, 4H). MS (ESI): 549.1 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.352 mmol, 200 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H17ClF3N5O3S2
reactant | ammonia | N | H3N
reactant | MeOH | 49.0 mmol, 7M, 7 ml | CO | CH4O
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 54 mg, 27% yield | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H19F3N6O3S2
